US07714010B2
2-(4-Methoxy-phenyl)-7,7-dimethyl-5-(3-methyl-butyl)-5,7-dihydro-1H-imidazo[4,5-f]indol-6-one is prepared from N-[3,3-dimethyl-1-(3-methyl-butyl)-6-nitro-2-oxo-2,3-dihydro-1H-indol-5-yl]-4-methoxy-benzamide (167 mg) as described in Example 1b using Raney-nickel (25 mg). After aqueous work-up 2-(4-methoxy-phenyl)-7,7-dimethyl-5-(3-methyl-butyl)-5,7-dihydro-1H-imidazo[4,5-f]indol-6-one (120 mg) is obtained by flash chromatography on silica gel eluting with light petroleum/EtOAc (1:1).

reactant | N-[3,3-dimethyl-1-(3-methyl-butyl)-6-nitro-2-oxo-2,3-dihydro-1H-indol-5-yl]-4-methoxy-benzamide | 167 mg | CC1(C(N(C2=CC(=C(C=C12)NC(C1=CC=C(C=C1)OC)=O)[N+](=O)[O-])CCC(C)C)=O)C | C23H27N3O5
catalyst | Raney-nickel | 25 mg | [Ni] | Ni
product | 2-(4-methoxy-phenyl)-7,7-dimethyl-5-(3-methyl-butyl)-5,7-dihydro-1H-imidazo[4,5-f]indol-6-one | 120 mg | COC1=CC=C(C=C1)C1=NC=2C(=CC=3C(C(N(C3C2)CCC(C)C)=O)(C)C)N1 | C23H27N3O2
